US08404144B2
Following the General Synthetic Procedure B, methyl 6-chlorohexanoate is reacted with tetramethyl methanebisphosphonate to produce tetramethyl 5-methoxycarbonylpentyl-methanebisphosphonate that is then hydrolyzed to yield 5-carboxypentyl-methanebisphosphonic acid, and then hydrogenated to reduce the carboxy group to a hydroxymethylene group. The resulting 6-hydroxyhexyl-methanebisphosphonic acid is then methacrylated with methacryloyl chloride to afford 6-methacryloxyhexyl-methanebisphosphonic acid.

reactant | methyl 6-chlorohexanoate | ClCCCCCC(=O)OC | C7H13ClO2
reactant | tetramethyl methanebisphosphonate | C(P(OC)(=O)OC)P(OC)(=O)OC | C5H14O6P2
product | tetramethyl 5-methoxycarbonylpentyl-methanebisphosphonate | COC(=O)CCCCCC(P(OC)(=O)OC)P(OC)(=O)OC | C12H26O8P2
